US09290434B2
From table 8 it appears that for esters of diglycerol and oleic acid optimum wearing reduction properties are provided by partial esters with a molar ratio diglycerol mono laurate/diglycerol dilaurate of more than 1.0.

reactant | diglycerol | C(C(COCC(CO)O)O)O | C6H14O5
reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
product | diglycerol mono laurate diglycerol dilaurate | C(CCCCCCCCCCC)(=O)O.OCC(O)CO.OCC(O)CO.C(CCCCCCCCCCC)(=O)O.C(CCCCCCCCCCC)(=O)O.OCC(O)CO.OCC(O)CO | InChI=1S/3C12H24O2.4C3H8O3/c3*1-2-3-4-5-6-7-8-9-10-11-12(13)14;4*4-1-3(6)2-5/h3*2-11H2,1H3,(H,13,14);4*3-6H,1-2H2
